US07064229B2
Ethyl 4-aminobenzoate (910 mg, 5.50 mmol) and phenyl succinic anhydride (1070 mg, 6.00 mmol) were dissolved in 40 mL abs. CH3CN and stirred overnight at r.t. The solid precipitate was isolated and digirated with 2-propanol, dried in vacuum, dissolved in DCM and washed with citric acid. 4-{[4-(methoxycarbonyl)-phenyl]amino}-4-oxo-3-phenylbutanoic acid was isolated as a crystalline solid (980 mg, 2.88 mmol). M.p. 212° C.; TLC (cyclohexane/EtOAc 7/3) Rf 0.17; 1H NMR (400 MHz, D6-DMSO) δ 1.39 (t, J=7.2 Hz, 3H); 2.75 (dd, J=3.7 Hz, J=17.2 Hz, 1H); 3.42 (dd, J=3.7 Hz, J=17.2 Hz, 1H); 4.09 (dd, J=3.7 Hz, J=17.2 Hz, 1H); 4.35 (q, J=7.2 Hz, 2H); 7.33–7.41 (m, 5H), 7.75 (mc, 2H), 7.94 (mc, 2H). The regiochemistry was determined using NOESY NMR spectroscopy.

reactant | Ethyl 4-aminobenzoate | 5.50 mmol, 910 mg | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | phenyl succinic anhydride | 6.00 mmol, 1070 mg | C1(=CC=CC=C1)C1C(=O)OC(C1)=O | C10H8O3
reactant | CH3CN | CC#N | C2H3N
solvent | 2-propanol | CC(C)O | C3H8O
product | 4-{[4-(methoxycarbonyl)-phenyl]amino}-4-oxo-3-phenylbutanoic acid | COC(=O)C1=CC=C(C=C1)NC(C(CC(=O)O)C1=CC=CC=C1)=O | C18H17NO5
